US08084470B2
A solution of 7.3 g (47 mmol) of 2-mercaptonicotinic acid and 9.6 g (48 mmol) of 2-(p-toluenesulfonyl)-ethanol was dissolved in DMF (80 ml). 0.5 ml of conc. H2SO4 was then carefully added dropwise, and stirring was carried out overnight under reflux. The reaction mixture was concentrated using a Genevac (EZ2). The residue was dissolved in acetonitrile and the solid was separated off. The mother liquor was concentrated, and MeOH was added. The resulting solid was filtered off and dried. 2.35 g (7 mmol, 14.8%) of 2-(2-tosylethylthio)nicotinic acid were obtained as solid.

reactant | 2-mercaptonicotinic acid | 47 mmol, 7.3 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 2-(p-toluenesulfonyl)-ethanol | 48 mmol, 9.6 g | C1(=CC=C(C=C1)S(=O)(=O)CCO)C | C9H12O3S
reactant | H2SO4 | 0.5 ml | OS(=O)(=O)O | H2O4S
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 2-(2-tosylethylthio)nicotinic acid | 7 mmol, 2.35 g, 14.8% | S(=O)(=O)(C1=CC=C(C)C=C1)CCSC1=C(C(=O)O)C=CC=N1 | C15H15NO4S2
